US08003651B2
LiOH—H2O (0.6246 g, 14.88 mmol) was added to a solution of (R)-methyl 2-(tert-butoxycarbonylamino)-3-(4-chloro-3-fluorophenyl)propanoate (1.646 g, 4.961 mmol) in 1:1 THF:H2O (26 mL). The reaction mixture was stirred at room temperature for 2 hours, after which it was diluted with H2O and washed with EtOAc. The aqueous layer was then acidified with solid KHSO4 and extracted with DCM. The combined extracts were dried (Na2SO4), filtered, concentrated, and then re-concentrated from DCM/hexanes to give (R)-2-(tert-butoxycarbonylamino)-3-(4-chloro-3-fluorophenyl)propanoic acid (1.31 g, 83.10% yield) as a white powder. LCMS (APCI−) m/z 316 [M−H]−.

reactant | LiOH—H2O | 14.88 mmol, 0.6246 g | O[Li].O
reactant | (R)-methyl 2-(tert-butoxycarbonylamino)-3-(4-chloro-3-fluorophenyl)propanoate | 4.961 mmol, 1.646 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)CC1=CC(=C(C=C1)Cl)F | C15H19ClFNO4
reactant | THF | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | H2O | 26 mL | O | H2O
product | (R)-2-(tert-butoxycarbonylamino)-3-(4-chloro-3-fluorophenyl)propanoic acid | 1.31 g, 83.10% yield | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC(=C(C=C1)Cl)F | C14H17ClFNO4
